US06897231B2
B. 5-{3-[4-(Methylethyl)phenyl]-1H-indazol-5-yl}-2H-1,2,3,4-tetrazole
The title compound was prepared from 3-[4-(methylethyl)phenyl]-1-perhydro-2H-pyran-2-yl-1H-indazole-5-carbonitrile (0.095 g, 0.307 mmol), azidotributyl tin (0.744 g, 0.689 mL, 2.33 mmol) in toluene (10 mL) as described for the preparation of compound 167. Deprotection was effected by treating a dioxane solution (5 mL) with 5 mL of 6.0 N aqueous solution of hydrogen chloride. The solid obtained upon completion of the reaction was partially dissolved in 2.0 N aqueous sodium hydroxide and was extracted in ethyl acetate (4×15 mL). (0.260 g, 0.85 mmol, 80% yield over 2 steps): 1H NMR (DMSO-d6) δ 13.5 (br s, 1H), 8.7 (s, 1H), 8.1 (d, 1H), 7.9 (d, 2H), 7.8 (d, 1H), 7.4 (d, 2H), 3.0 (septet, 1H), 1.3 (d, 6H); ES-MS (m/z) 305 [M+1]+.

reactant | 3-[4-(methylethyl)phenyl]-1-perhydro-2H-pyran-2-yl-1H-indazole-5-carbonitrile | 0.307 mmol, 0.095 g | CC(C)C1=CC=C(C=C1)C1=NN(C2=CC=C(C=C12)C#N)C1OCCCC1 | C22H23N3O
reactant | azidotributyl tin | 2.33 mmol, 0.689 mL, 0.744 g | N(=[N+]=[N-])[Sn](CCCC)(CCCC)CCCC
reactant | dioxane | 5 mL | O1CCOCC1 | C4H8O2
reactant | hydrogen chloride | Cl | ClH
solvent | toluene | 10 mL | C1(=CC=CC=C1)C | C7H8
solvent | sodium hydroxide | 2.0 N | [OH-].[Na+]
product | 5-{3-[4-(Methylethyl)phenyl]-1H-indazol-5-yl}-2H-1,2,3,4-tetrazole | 80% yield | CC(C)C1=CC=C(C=C1)C1=NNC2=CC=C(C=C12)C=1N=NNN1 | C17H16N6
